US06613794B2
N-(3,5-Dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-hydroxyindol-3-yl]2-oxoacetamide
5 g (38 mmol) anhydrous aluminium chloride is introduced into 50 ml ethane-1,2,-dithiol. A solution of 4.7 g of N-(3,5-dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-methoxyindol-3-yl]-2-oxoacetamide (10 mmol) in 50 ml of dichloromethane is added at 0° C. The mixture is stirred at 0° C. for 4 hours. 50 ml of 10% hydrochloric acid is added dropwise at from 0 to 10° C. with stirring. The crystallizing product is isolated, washed with water and dried at 20° C. A pure product is obtained by recrystallization from ethanol (180 ml).

reactant | aluminium chloride | 38 mmol, 5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethane-1,2,-dithiol | 50 ml | C(CS)S | C2H6S2
reactant | N-(3,5-dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-methoxyindol-3-yl]-2-oxoacetamide | 10 mmol, 4.7 g | ClC=1C=NC=C(C1NC(C(=O)C1=CN(C2=CC=C(C=C12)OC)CC1=CC=C(C=C1)F)=O)Cl | C23H16Cl2FN3O3
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-(3,5-Dichloropyridin-4-yl)-2-[1-(4-fluorobenzyl)-5-hydroxyindol-3-yl]2-oxoacetamide | ClC=1C=NC=C(C1NC(C(=O)C1=CN(C2=CC=C(C=C12)O)CC1=CC=C(C=C1)F)=O)Cl | C22H14Cl2FN3O3
